US04886814
2-(2-Methyl-thiazol-4-yl)ethylene oxide
10.2 g (0.048 mol) of Trimethylsulphonium iodide are dissolved in 42 ml of dimethyl sulphoxide and added dropwise to a stirred solution, which is maintained at 0° C., of 1.14 g of sodium hydride in 50 ml of dimethyl sulphoxide/tetrahydrofuran (1:1). After 60 minutes, a solution of 6.1 g of 2-methyl-4-formylthiazole in 25 ml of tetrahydrofuran is added dropwise at 0° C., and the mixture is stirred at room temperature for 3 hours. It is then cooled to 0° C., 9.6 ml of water are added dropwise, and the mixture is extracted with ether. The ethereal phase is extracted by shaking 2× with water, dried and concentrated. The resulting oil is purified on a silica gel column using toluene/ethyl acetate (65:35) as eluant.

reactant | Trimethylsulphonium iodide | 0.048 mol, 10.2 g | [I-].C[S+](C)C
reactant | sodium hydride | 1.14 g | [H-].[Na+]
reactant | 2-methyl-4-formylthiazole | 6.1 g | CC=1SC=C(N1)C=O | C5H5NOS
reactant | water | 9.6 ml | O | H2O
solvent | dimethyl sulphoxide | 42 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide tetrahydrofuran | 50 ml | CS(=O)C.O1CCCC1
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 2-(2-Methyl-thiazol-4-yl)ethylene oxide | CC=1SC=C(N1)C1CO1 | C6H7NOS
